US05523315
2-{[(1-Methoxycyclohexyl)methyl]amino}-N-methyl-N-[2-(2-pyridinyl)ethyl]acetamide [an example of alkoxyalkylamine of formula ANH(R1)]: A solution of benzyl bromoacetate (0.49 mL, 3.1 mmol) in THF (6.4 ML) was cooled to 0°. Triethylamine (0.54 mL, 3.9 mmol) and 1-methoxycyclohexanemethanamine (0.37 g, 2.58 mmol), described by N. J. Leonard and K. Jann, J. Am. Chem. Soc., 84, 4806 (1962), were added to the cooled solution. The mixture was stirred at room temperature for 24 h. Thereafter, H2O (1.6 mL) was added, followed by the addition of a saturated aqueous solution of NaHCO3 (3.22 mL) and di-tert-butyl dicarbonate (0.79 g, 3.61 mmol). The resulting mixture was stirred vigorously for 24 h. Thereafter, the mixture was diluted with H2O (25 mL) and extracted with EtOAc (3×). The combined extracts were washed with brine, dried (Na2SO4) and concentrated to dryness to afford 2-{tert-butyloxycarbonyl[(1-methoxycyclohexyl)methyl]amino}acetic acid benzyl ester (1.25 g ).

reactant | 2-{[(1-Methoxycyclohexyl)methyl]amino}-N-methyl-N-[2-(2-pyridinyl)ethyl]acetamide | COC1(CCCCC1)CNCC(=O)N(CCC1=NC=CC=C1)C | C18H29N3O2
reactant | benzyl bromoacetate | 3.1 mmol, 0.49 mL | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | Triethylamine | 3.9 mmol, 0.54 mL | C(C)N(CC)CC | C6H15N
reactant | 1-methoxycyclohexanemethanamine | 2.58 mmol, 0.37 g | COC1(CCCCC1)CN | C8H17NO
reactant | NaHCO3 | 3.22 mL | C(=O)(O)[O-].[Na+]
reactant | di-tert-butyl dicarbonate | 3.61 mmol, 0.79 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 25 mL | O | H2O
solvent | H2O | 1.6 mL | O | H2O
product | 2-{tert-butyloxycarbonyl[(1-methoxycyclohexyl)methyl]amino}acetic acid benzyl ester | 1.25 g | C(C1=CC=CC=C1)OC(CN(CC1(CCCCC1)OC)C(=O)OC(C)(C)C)=O | C22H33NO5
